US07781436B2
2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetamide
Following general procedure I, the coupling of {6-chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetic acid (preparation described herein), with (commercially available) ammonia in THF gave the title compound.

reactant | {6-chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C21H19ClFN3O3
reactant | ammonia | N | H3N
solvent | THF | C1CCOC1 | C4H8O
product | 2-{6-Chloro-3-[4-(2-fluoro-phenyl)-piperazine-1-carbonyl]-indol-1-yl}-acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)N)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C21H20ClFN4O2
